US07960409B2
Step 1: 4-{(trimethylsilyl)ethynyl}tetrahydropyran-4-ol
To a solution of trimethylsilylacetylene (5 mL, 35.4 mmol) in THF (100 mL) cooled at −78° C., a 1.6M n-butyllithium in hexanes (22.1 mL, 35.4 mmol) was added dropwise. The solution was stirred for 30 min before tetrahydro-4H-pyran-4-one (3.47 mL, 37.2 mmol) was added. The temperature was slowly raised to room temperature and the reaction was stirred overnight. The reaction was quenched with a saturated ammonium chloride solution and the aqueous layer was extracted with ethyl acetate (3×). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The crude residue obtained was used as such for the next step. 1H NMR (400 MHz, acetone-d6): 4.60 (s, 1H), 3.85-3.75 (m, 2H), 3.61-3.51 (m, 2H), 1.98-1.87 (m, 2H), 1.74-1.66 (m, 2H), 0.16 (s, 9H).

reactant | trimethylsilylacetylene | 35.4 mmol, 5 mL | C[Si](C)(C)C#C | C5H10Si
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | tetrahydro-4H-pyran-4-one | 37.2 mmol, 3.47 mL | O1CCC(CC1)=O | C5H8O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-{(trimethylsilyl)ethynyl}tetrahydropyran-4-ol | C[Si](C)(C)C#CC1(CCOCC1)O | C10H18O2Si
